US09024027B2
A solution of (S)-4-(2-(2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (297 mg, 0.385 mmol) and 4N HCl in dioxane (2 ml, 8.00 mmol) in DCM (4 ml) was stirred at room temperature for 18 hours. The volatiles were removed under vacuum and the crude was purified by flash chromatography on silica gel (DCM:EtOAc=6:4) to give (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(3-(methylsulfonamido)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide (210 mg, 0.313 mmol, 81% yield). MS/ESI+ 670.36 [MH]+; [αD]=+7.7, c=0.6, MeOH; 1H NMR (300 MHz, DMSO-d6) δ ppm 9.18 (br. s., 1H), 8.51 (s, 2H), 7.67 (d, 1H), 7.29 (s, 1H), 7.04-7.20 (m, 4H), 7.02 (d, 1H), 6.91 (dd, 1H), 7.06 (t, 1H), 6.01 (dd, 1H), 5.23 (d, 1H), 5.06 (d, 1H), 3.85 (d, 2H), 3.42 (dd, 1H), 3.20 (dd, 1H), 2.86 (s, 3H), 1.08-1.31 (m, 1H), 0.54-0.68 (m, 2H), 0.30-0.48 (m, 2H))

reactant | (S)-4-(2-(2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.385 mmol, 297 mg | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CN(C2=CC=CC=C12)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C34H35Cl2F2N3O9S
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 8.00 mmol, 2 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(3-(methylsulfonamido)-1H-indol-1-yl)acetoxy)ethyl)pyridine 1-oxide | 0.313 mmol, 210 mg, 81% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C=C(C2=CC=CC=C12)NS(=O)(=O)C)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H27Cl2F2N3O7S
